US07229943B2
Preparation of 1-Methyl-4,7-diphenyl-1H-benzimidazole-2-carbaldehyde
A mixture of 3.3 g (11.07 mmol) 4,7-diphenyl-1H-benzimidazole-2-carbaldehyde, 8.60 g (62.0 mmol) anhydrous K2CO3 and 1.1 ml (11.07 mmol) dimethyl sulfate in 30 ml anhydrous DMF was stirred at room temperature for 30 min. The reaction mixture was then poured into 300 ml water, stirred for 10 min and extracted with dichloromethane (3×100 ml). The combined extracts were washed with water (3×50 ml) and dried over anhydrous Na2SO4. The solvent was evaporated to give an yellow oil which was triturated with 20 ml methanol at 0° C., filtered while cold, washed with cold (0° C.) methanol (2×10 ml) and dried under reduced pressure. Yield 3.1 g (89.6%). 1H NMR (250 MHz, CDCl3), δ, ppm: 3.74 (s, 3H), 7.47 (m, 10H) 8.04 (d, JHH=7.8 Hz, 2H), 10.1 (s, 1H).

reactant | 4,7-diphenyl-1H-benzimidazole-2-carbaldehyde | 11.07 mmol, 3.3 g | C1(=CC=CC=C1)C1=CC=C(C=2NC(=NC21)C=O)C2=CC=CC=C2 | C20H14N2O
reactant | K2CO3 | 62.0 mmol, 8.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 11.07 mmol, 1.1 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 300 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-4,7-diphenyl-1H-benzimidazole-2-carbaldehyde | CN1C(=NC2=C1C(=CC=C2C2=CC=CC=C2)C2=CC=CC=C2)C=O | C21H16N2O
